US07037909B2
5-Chloro-3-(4-fluoro-benzyl)-8-methyl-9H-1,2,3a,4,9,10-hexaazacyclopenta[b]fluorene
According to the general cyclization procedure (for Example 27), 0.60 mmol of 4-chloro-7-methyl-1H-indole-2,3-dione (117.5 mg) and 0.70 mmol of 5-(4-fluoro-benzyl)-[1,2,4]triazole-3,4-diamine (145 mg) was used for the preparation.

reactant | 4-chloro-7-methyl-1H-indole-2,3-dione | 0.60 mmol, 117.5 mg | ClC1=C2C(C(NC2=C(C=C1)C)=O)=O | C9H6ClNO2
reactant | 5-(4-fluoro-benzyl)-[1,2,4]triazole-3,4-diamine | 0.70 mmol, 145 mg | FC1=CC=C(CC=2N(C(=NN2)N)N)C=C1 | C9H10FN5
product | 5-Chloro-3-(4-fluoro-benzyl)-8-methyl-9H-1,2,3a,4,9,10-hexaazacyclopenta[b]fluorene | ClC1=C2C3=NN4C(N=C3NC2=C(C=C1)C)=NN=C4CC4=CC=C(C=C4)F | C18H12ClFN6
